US05462944
(ii) Preparation of 3-(4,6-dimethylpyrimid-2-ylamino)propane-1,2-diol
N-methylmorpholine-N-oxide (64.0 g, 0.47 mol) and osmiumtetroxide (0.7 g, 2.75 mmol) were dissolved in a mixture of 180 ml water and 100 ml acetone. 1-(4,6-dimethylpyrimid-2-ylamino)-prop-2-ene (73.5 g, 0.45 mol) in 100 ml acetone was added over a period of 15 minutes. The mixture was stirred at room temperature for 1 hour and then warmed to 50° C. for 2 hours. 10 ml aqueous saturated sodiumhydrogensulphite was then added together with 40 g of diatomaceous earth. After filtration the reaction mixture was evaporated to dryness and the residue extracted with dioxane/ethanol 2:1 (700 ml). Filtration from insoluble material and concentration of the solution in vacuum caused crystallisation of the product. Addition of toluene completed product precipitation, which was isolated by filtration (83 g, m.p. 124°-127° C.).

reactant | N-methylmorpholine-N-oxide | 0.47 mol, 64.0 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | 1-(4,6-dimethylpyrimid-2-ylamino)-prop-2-ene | 0.45 mol, 73.5 g | CC1=NC(=NC(=C1)C)NCC=C | C9H13N3
reactant | sodiumhydrogensulphite | 10 ml | S(=O)(O)[O-].[Na+]
reactant | water | 180 ml | O | H2O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
catalyst | osmiumtetroxide | 2.75 mmol, 0.7 g | [Os](=O)(=O)(=O)=O
product | 3-(4,6-dimethylpyrimid-2-ylamino)propane-1,2-diol | CC1=NC(=NC(=C1)C)NCC(CO)O | C9H15N3O2
